US07319099B2
(b) rac-5-Methylsulfamoyl-2-(2,2,2-trifluoro-1-methyl-ethoxy)-benzoic acid
To 1.6 mmol 5-methylsulfamoyl-2-(2,2,2-trifluoro-1-methyl-ethoxy)-benzoic acid methyl ester in 10 ml THF was added 20 mmol 2 M aq NaOH, and the mixture was heated at 50° C. for 2 h. The mixture was then cooled to RT and extracted twice with ether. The aqueous phase was acidified with 10% aq citric acid and extracted twice with ethyl acetate. The combined organic phases were dried with Na2SO4. Evaporation in vacuo followed by trituration in ether and hexane afforded the title compound. MS (m/e): 326.2 ([M−H]−, 100%)

reactant | 5-methylsulfamoyl-2-(2,2,2-trifluoro-1-methyl-ethoxy)-benzoic acid methyl ester | 1.6 mmol | COC(C1=C(C=CC(=C1)S(NC)(=O)=O)OC(C(F)(F)F)C)=O | C12H14F3NO5S
reactant | NaOH | 20 mmol, 2 M | [OH-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | rac-5-Methylsulfamoyl-2-(2,2,2-trifluoro-1-methyl-ethoxy)-benzoic acid | CNS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)OC(C(F)(F)F)C | C11H12F3NO5S
